US06734183B2
To a solution of 1-(4-fluorophenyl)piperazine (35 g, 194 mmol) and pyridine (17.5 ml) in dry dichloromethane (200 ml) at 0° C. was added methanesulfonyl chloride (20 ml, 258 mmol) dropwise. The mixture was stirred for 3 hours at room temperature. The mixture was washed with water and extracted with dichloromethane (2×100 ml). The organic layers were dried with MgSO4 and evaporated in vacuo. The residue was triturated and washed with methanol to give 1-(4-fluorophenyl)-4-(methanesulfonyl)piperazine (39.35 g) as white crystals.

reactant | 1-(4-fluorophenyl)piperazine | 194 mmol, 35 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | pyridine | 17.5 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 258 mmol, 20 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-(4-fluorophenyl)-4-(methanesulfonyl)piperazine | 39.35 g | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15FN2O2S
